US06166031
3-Isopropyl-6-benzyloxy-4-chromanone
By the method of Example 8, 6-benzyloxy-4-chromanone and isopropyl iodide are converted to present title product.

reactant | 6-benzyloxy-4-chromanone | C(C1=CC=CC=C1)OC=1C=C2C(CCOC2=CC1)=O | C16H14O3
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 3-Isopropyl-6-benzyloxy-4-chromanone | C(C)(C)C1COC2=CC=C(C=C2C1=O)OCC1=CC=CC=C1 | C19H20O3
